US05217952
To a solution of N-benzyloxycarbonyl-L-threonine (3.7 g) and O-methoxymethyl-N-methyl-β-benzoyloxytyrosine methyl ester (threo isomer) (3.11 g) in dichloromethane (50 ml) was added ethyl 1,2-dihydro-2-ethoxy-1-quinolinecarboxylate (2.9 g). After stirring for 20 hours at room temperature, the solvent was removed in vacuo. The residue was dissolved in ethyl acetate (50 ml) and washed with dil. hydrochloric acid, sodium bicarbonate aqueous solution and water. After evaporation, the residue was put on a column of silica gel (MERCK 7734, 100 g) and eluted with n-hexane-ethyl acetate (1:1, V/V) to give N-(N-benzyloxycarbonyl-L-threonyl)-O-methoxymethyl-N-methyl-β-benzoyloxytyrosine methyl ester (threo isomer) (2.04 g).

reactant | N-benzyloxycarbonyl-L-threonine | 3.7 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]([C@H](O)C)C(=O)O | C12H15NO5
reactant | O-methoxymethyl-N-methyl-β-benzoyloxytyrosine methyl ester | 3.11 g | COC([C@@H](NC)C(C1=CC=C(C=C1)OCOC)OC(C1=CC=CC=C1)=O)=O | C20H23NO6
reactant | ethyl 1,2-dihydro-2-ethoxy-1-quinolinecarboxylate | 2.9 g | C(C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC | C14H17NO3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(N-benzyloxycarbonyl-L-threonyl)-O-methoxymethyl-N-methyl-β-benzoyloxytyrosine methyl ester | 2.04 g | COC([C@@H](N(C)C([C@@H](NC(=O)OCC1=CC=CC=C1)[C@H](O)C)=O)C(C1=CC=C(C=C1)OCOC)OC(C1=CC=CC=C1)=O)=O | C32H36N2O10
